US07056916B2
(d) 6-benzyloxy-8-{2-[2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
1.10 g (3.1 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 0.50 g (2.8 mmol) of 2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamine are reacted and worked up analogously to the method for Example 8(d). White solid. Yield: 0.75 g (47%, hydrochloride); melting point 228° C.–230° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 3.1 mmol, 1.10 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamine | 2.8 mmol, 0.50 g | FC1=C(C=C(C=C1)CC(C)(C)N)C | C11H16FN
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC(=C(C=C1)F)C)(C)C)O | C28H31FN2O4
